Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1=[C:10]([H:11])[H:12],-0.805971209999
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])[H:10],4.444544002930001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[O:1],8.015523115239999
[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])[H:9]>>[C:3]#[C:4][O:5][H:6].[O:1]=[C:2]=[C:7]([H:8])[H:9],2.69347310033
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.40209166
[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.97846277736
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:3],4.1899061774
[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])([C:4]([H:5])[H:6])[C:13]([C:10]([C:7]([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],3.58681636
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.34609932603
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:5],1.57503523049
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],-0.10775147353
[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:1]>>[O:1]=[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],-6.49236487321
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.875112183450001
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5681266989
[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][H:7]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7],-5.7837102141
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.49503630826
[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[O:8]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])[H:11],-5.22541265166
[C:3](#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.88170387053
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[O:7][H:8],3.1150095084900005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],-0.50815590567
[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],0.259912682812
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.36613348162
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.62747477866
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],7.2137112394
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13],2.82500046457
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.57704632637
[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1].[O:2]=[C:3]=[C:4][C:5][O:6][C:7]([H:8])[H:9],1.40556846614
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.48647932244
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4][O:5][H:6],6.71987943204
[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.54938860264
